US05059347
2-octyl-1-octanol;
2-methyl-1-heptadecanol; 2-ethyl-1-hexadecanol;

reactant | 2-methyl-1-heptadecanol | CC(CO)CCCCCCCCCCCCCCC | C18H38O
reactant | 2-ethyl-1-hexadecanol | C(C)C(CO)CCCCCCCCCCCCCC | C18H38O
product | 2-octyl-1-octanol | C(CCCCCCC)C(CO)CCCCCC | C16H34O
